datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC[C@@H](C(=O)[O:21][H:20])[C@@]1(O)C[C@H]2CC[C@@H]1C2.c1nc2c[nH+]c([S-:10])nc2[nH]1>>CC[C@@H](C(=O)[O-:21])[C@@]1(O)C[C@H]2CC[C@@H]1C2.c1nc2c[nH+]c([S:10][H:20])nc2[nH]1 10=20;20,21=21",
"O=C([O-])C1([NH2+:21][H:20])CCCC1.Oc1ccc(C[NH2:10])cc1O>>O=C([O-])C1([NH2:21])CCCC1.Oc1ccc(C[NH2+:10][H:20])cc1O 10=20;20,21=21",
"CCN(CC)CCOCC[N:10](CC)CC.c1ccc(NC(Nc2ccccc2)=[N+:21](c2ccccc2)[H:20])cc1>>CCN(CC)CCOCC[N+:10](CC)(CC)[H:20].c1ccc(NC(Nc2ccccc2)=[N:21]c2ccccc2)cc1 10=20;20,21=21",
"CC1CCCC[N+:21]1(C)[H:20].CCOC(=O)c1c(C)nc(C)c(C(=O)OCC)c1-c1ccc([N-:10]S(=O)(=O)c2ccc(N)cc2)cc1>>CC1CCCC[N:21]1C.CCOC(=O)c1c(C)nc(C)c(C(=O)OCC)c1-c1ccc([N:10](S(=O)(=O)c2ccc(N)cc2)[H:20])cc1 10=20;20,21=21",
"O=C(Cc1ccc2ccccc2c1)[O-:10].c1ccc2c(c1)C1CC[N+:21]2([H:20])c2ccccc21>>O=C(Cc1ccc2ccccc2c1)[O:10][H:20].c1ccc2c(c1)C1CC[N:21]2c2ccccc21 10=20;20,21=21",
"C[Si](C)(C[NH2+:21][H:20])c1ccccc1.Cc1cc2c(cc1C)[n:10]cn2[C@H]1OC[C@@H](O)[C@@H](O)[C@@H]1O>>C[Si](C)(C[NH2:21])c1ccccc1.Cc1cc2c(cc1C)[n+:10]([H:20])cn2[C@H]1OC[C@@H](O)[C@@H](O)[C@@H]1O 10=20;20,21=21",
"[O-]c1cc[n+:21]([H:20])c([S-])[nH+]1.[O-]c1cc[n:10]c2ccccc12>>[O-]c1cc[n+:10]([H:20])c2ccccc12.[O-]c1cc[n:21]c([S-])[nH+]1 10=20;20,21=21",
"O=Cc1cc(Cl)ccc1[O:21][H:20].O=S(=O)(Cc1ccccc1)c1cnn[n-:10]1>>O=Cc1cc(Cl)ccc1[O-:21].O=S(=O)(Cc1ccccc1)c1cnn[n:10]1[H:20] 10=20;20,21=21",
"CC/C=C/Cc1n(C(C(=O)[O-])C(C)(C)S)cc(C(=O)[O-])[n:10]1.O=S(=O)(c1ccc(Br)cc1)[O:21][H:20]>>CC/C=C/Cc1n(C(C(=O)[O-])C(C)(C)S)cc(C(=O)[O-])[n+:10]1[H:20].O=S(=O)(c1ccc(Br)cc1)[O-:21] 10=20;20,21=21",
"CCC[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=CC([N+](=O)[O-])=C1)[H:20]>>CCC[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"CCOC(=S)[N-:10]C(=O)c1ccccc1.O=C(c1cccc(C2CC2)c1)[O:21][H:20]>>CCOC(=S)[N:10](C(=O)c1ccccc1)[H:20].O=C(c1cccc(C2CC2)c1)[O-:21] 10=20;20,21=21",
"C[n+]1c(N)cc[n+:21]([H:20])c1[O-].Cc1c(Cn2cc[nH+]c2)sc2cc(C(=O)[O-:10])ccc12>>C[n+]1c(N)cc[n:21]c1[O-].Cc1c(Cn2cc[nH+]c2)sc2cc(C(=O)[O:10][H:20])ccc12 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]CC(C)C.O=C(Nc1ccccc1)O[N:21](C(=O)c1ccccc1)[H:20]>>C=C(C)C(=O)OCC[NH+:10](CC(C)C)[H:20].O=C(Nc1ccccc1)O[N-:21]C(=O)c1ccccc1 10=20;20,21=21",
"CC(C)[N:10](c1ccccc1)C(C)C.COc1ccc(CCC(=O)[O:21][H:20])cc1>>CC(C)[N+:10](c1ccccc1)(C(C)C)[H:20].COc1ccc(CCC(=O)[O-:21])cc1 10=20;20,21=21",
"CC[N:10](CC)CCCC#N.C[NH+](C)Cc1c(O)c(O)c([O:21][H:20])c(C[NH+](C)C)c1C(=O)[O-]>>CC[N+:10](CC)(CCCC#N)[H:20].C[NH+](C)Cc1c(O)c(O)c([O-:21])c(C[NH+](C)C)c1C(=O)[O-] 10=20;20,21=21",
"CC(O)[C@@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(O)[C@@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)[O-].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCC(C)C([NH3+])C(=O)[O-:10].c1cnc2c(c1)[nH]c[n+:21]2[H:20]>>CCC(C)C([NH3+])C(=O)[O:10][H:20].c1cnc2c(c1)[nH]c[n:21]2 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[O-]c1ccc(Nc2ccc([O-:10])cc2)cc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[O-]c1ccc(Nc2ccc([O:10][H:20])cc2)cc1 10=20;20,21=21",
"CC1CC[NH:10]1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC1CC[NH+:10]1[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH:10]C.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC(C)C(C(=O)[O-])[NH+:10](C)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CN[C@H]1C(C)[C@@H]1[NH:10]C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CN[C@H]1C(C)[C@@H]1[NH+:10](C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(=O)Oc1cccc2cccc([O-:10])c12.O=C([C@H]1CCCC[C@@H]1O)[O:21][H:20]>>CC(=O)Oc1cccc2cccc([O:10][H:20])c12.O=C([C@H]1CCCC[C@@H]1O)[O-:21] 10=20;20,21=21",
"COC(=O)c1ccccc1[O:21][H:20].O=C(CCc1ccsc1)[O-:10]>>COC(=O)c1ccccc1[O-:21].O=C(CCc1ccsc1)[O:10][H:20] 10=20;20,21=21",
"CC(=O)c1cc(C(C)=O)[n-:10]n1.COc1ccccc1[N+:21](=CN(C)C)[H:20]>>CC(=O)c1cc(C(C)=O)[n:10]([H:20])n1.COc1ccccc1[N:21]=CN(C)C 10=20;20,21=21",
"CCOC(=O)C1(c2ccccc2)CC[N:10](CC)CC1.c1c[nH+]c2c([S:21][H:20])cccc2c1>>CCOC(=O)C1(c2ccccc2)CC[N+:10](CC)([H:20])CC1.c1c[nH+]c2c([S-:21])cccc2c1 10=20;20,21=21",
"CCCCNCC[NH:10]CCCC.Cc1ccc([N+:21]2([H:20])CCCC(=O)C(O)CCC2)cc1>>CCCCNCC[NH+:10](CCCC)[H:20].Cc1ccc([N:21]2CCCC(=O)C(O)CCC2)cc1 10=20;20,21=21",
"C[NH+](C)CCCNc1c2ccccc2[n:10]c2cccc([N+](=O)[O-])c12.c1cc2cnncc2cc1[O:21][H:20]>>C[NH+](C)CCCNc1c2ccccc2[n+:10]([H:20])c2cccc([N+](=O)[O-])c12.c1cc2cnncc2cc1[O-:21] 10=20;20,21=21",
"O=[N+]([O-])c1ccccc1B(O)[O:21][H:20].c1ccc(C2SCC[NH:10]2)cc1>>O=[N+]([O-])c1ccccc1B(O)[O-:21].c1ccc(C2SCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"O=C([O-])c1cc2ccccc2[n+:21]([H:20])c1.c1ccc(CSc2[nH]c(-c3ccccc3)c(SCc3ccccc3)[n:10]2)cc1>>O=C([O-])c1cc2ccccc2[n:21]c1.c1ccc(CSc2[nH]c(-c3ccccc3)c(SCc3ccccc3)[n+:10]2[H:20])cc1 10=20;20,21=21",
"COc1ccc2c(c1O)C[N+:21](C)([H:20])CCc1cc3c(cc1C(=O)C2)OCO3.C[NH:10]CCC(=O)c1ccccc1>>COc1ccc2c(c1O)C[N:21](C)CCc1cc3c(cc1C(=O)C2)OCO3.C[NH+:10](CCC(=O)c1ccccc1)[H:20] 10=20;20,21=21",
